datasets/10k_Mayr_OG.csv
SMILES Labelled
CC(C)[P:10](C(C)C)C(C)C.FC(F)(F)CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CC(C)[P+:10](C(C)C)(C(C)C)[CH:20]([C:31]1=[CH:32][CH:33]=[C:34](N(CC(F)(F)F)C2=CC=CC=C2)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](N(CC(F)(F)F)C2=CC=CC=C2)[CH:45]=[CH:46]1 10=20
"C[C:11]1=[CH:10][CH:61]=[C:62](C)[N:12]1C.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[C:11]1=[N+:12](C)[C:62](C)=[CH:61][CH:10]1[C:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC[O:92][C:61]([C-:10](OC)[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.CC[O:92][C:61]([C:10](OC)([F:20])[S:71](C1=CC=CC=C1)(=[O:72])=[O:82])=[O:62] 10=20;20,21=21"
"C[C:11](=[CH2:10])[O:12][Si:63](C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:11]([CH2:10][CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)=[O+:12][Si:63](C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F 10,11=10,20;12=11,12"
CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([O:10][C:61]2=[CH:62][CH:63]=[C:64](C)[CH:73]=[CH:72]2)([C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10=20
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CO[C:62]([CH:61]1CCC[NH:10]1)=[O:63]>>CC[O:34][C:32]([C:21]([CH:20]([NH+:10]1CCC[CH:61]1[C:62](OC)=[O:63])[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C:10]#[C:11][N:12]2CCC[C:63]2=[O:64])C=C1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([C:10](C2=CC=CC=C2)=[C:11]=[N+:12]2CCC[C:63]2=[O:64])[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1COC2(CC[C:20](=[O:21])CC2)O1.C[C:11](=[CH2:10])[CH2:62][Ge:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1>>C[C+:11]([CH2:10][C:20]1([O-:21])CCC2(CC1)OCCO2)[CH2:62][Ge:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[CH:62]1C2=C(C=CC=C2)[CH:10]=[CH:11]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2C3=C(C=CC=C3)[CH:62]([Si:63](C)(C)C)[CH+:11]2)([C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC12C3(C)C4(C)C5(C)C1(C)[W-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20](=[O:21])[C:41](Cl)=[C:42]1Cl>>CC12C3(C)C4(C)C5(C)C1(C)[W-2:11]2345(C#[O+])(C#[O+])C#[O+].Cl[C:30]1=[C:31](Cl)[C:32](=[O:33])[C:20]([H:10])([O-:21])[C:41](Cl)=[C:42]1Cl 10,11=10,20;20,21=21"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Si:63](C)(C)[O:12][C:11](=[CH2:10])[CH:72]=[CH2:73]>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C:11](=[O+:12][Si:63](C)(C)C)[CH:72]=[CH2:73])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)C1(C)C>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[C:20]([S-:21])=[N:31]C2=CC=CC=C2)C1(C)C 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[N:12]2/[CH:11]=[CH:10]/C2=CC=CC=C2)C=C1.O=[N+]([O-])[C:43]1=[CH:42][C:21]([N+:22](=[O:23])[O-:33])=[CH:20][S:44]1>>O=[N+]([O-])[C:43]1=[CH:42][C:21](=[N+:22]([O-:23])[O-:33])[CH:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCCC2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[S:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
